US05314998
To a stirred solution of 0.73 g N-butyl-N-(3'-phenylpropyl)-4-methoxy-3-nitrobenzensulfonamide in 10 ml dimethyl sulfoxide was added 10 ml of a 50% aqueous potassium hydroxide solution and the mixture was heated and stirred at 80° C. for 4 hours. The mixture was poured into water, acidified to pH 4-5 with 20% aqueous hydrochloric acid and extracted into chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate, filtered, and the solvent was removed to give 0.71 g N-butyl-N-(3'-phenylpropyl)-4-hydroxy-3-nitrobenzenesulfonamide.

reactant | N-butyl-N-(3'-phenylpropyl)-4-methoxy-3-nitrobenzensulfonamide | 0.73 g | C(CCC)N(S(=O)(=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-])CCCC1=CC=CC=C1 | C20H26N2O5S
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | N-butyl-N-(3'-phenylpropyl)-4-hydroxy-3-nitrobenzenesulfonamide | 0.71 g | C(CCC)N(S(=O)(=O)C1=CC(=C(C=C1)O)[N+](=O)[O-])CCCC1=CC=CC=C1 | C19H24N2O5S
